US06331538B1
1-(3-Fluorophenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione
Using General Method 4, the reaction of N-methylpiperazine (0.16 mL, 1.43 mmol), triethylamine (0.2 mL, 1.43 mmol), and 1-(3-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione (Example G-1, 0.19 g, 0.48 mmol) provided 0.209 g of the title compound as a solid.

reactant | N-methylpiperazine | 1.43 mmol, 0.16 mL | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-fluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.48 mmol, 0.19 g | FC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H13F3N2O3
product | 1-(3-Fluorophenyl)-6-fluoro-3-benzyloxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | 0.209 g | FC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)OCC1=CC=CC=C1)=O | C26H24F2N4O3
